US09079866B2
Step B: 4′-(5-Aminopyrazin-2-yl)-N-tert-butylbiphenyl-2-sulfonamide
To a 5 mL sealable vial equipped with a stir bar were added 5-(4-bromophenyl)pyrazin-2-amine (40 mg, 0.16 mmol), (2-(N-(tert-butyl)sulfamoyl)phenyl)-boronic acid (62 mg, 0.24 mmol), K2CO3 (66 mg, 0.48 mmol) and Pd(dppf)Cl2.CH2Cl2 (12 mg, 0.016 mmol). The vial was then sealed, evacuated, backfilled with argon and charged with argon sparged DMSO (0.64 mL). The vial was heated at 70° Celsius for 15 hours. The reaction mixture was cooled to rt diluted with ethyl acetate (2 mL) and water (2 mL), the layers separated and the aqueous layer further extracted with ethyl acetate (3×10 mL). The combined organic extracts were then dried with Na2SO4 and concentrated to dryness. The crude product was purified by HPLC to give the title compound. MS (ESI): mass calcd. for C20H22N4O2S, 382.15; m/z found, 383.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.48-8.39 (d, J=1.5, 1H), 8.23-8.18 (dd, J=8.0, 1.4, 1H), 8.18-8.15 (d, J=1.4, 1H), 7.99-7.95 (d, J=8.4, 1H), 7.65-7.61 (m, 2H), 7.61-7.55 (m, 1H), 7.55-7.46 (m, 1H), 7.38-7.31 (dd, J=7.5, 1.4, 1H), 3.70 (s, 1H), 1.25 (s, 1H), 1.03 (s, 9H).

reactant | 5-(4-bromophenyl)pyrazin-2-amine | 0.16 mmol, 40 mg | BrC1=CC=C(C=C1)C=1N=CC(=NC1)N | C10H8BrN3
reactant | (2-(N-(tert-butyl)sulfamoyl)phenyl)-boronic acid | 0.24 mmol, 62 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)B(O)O | C10H16BNO4S
reactant | K2CO3 | 0.48 mmol, 66 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 | 0.016 mmol, 12 mg | C(Cl)Cl | CH2Cl2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4′-(5-Aminopyrazin-2-yl)-N-tert-butylbiphenyl-2-sulfonamide | NC=1N=CC(=NC1)C1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC(C)(C)C | C20H22N4O2S
